### PR TITLE
Factor binops in expressions and terms

### PR DESCRIPTION
**Pull request by skeuchel**

### CODE REVIEW

File: src/MicroSail/Sep/Soundness/Term.v [hunk 1]
```diff
@@ -76,13 +76,12 @@ Module TermEqbSoundness
...
-    forall Σ (σ : Ty) (t1 t2 : Term Σ σ),
-      reflect (t1 = t2) (Term_eqb t1 t2).
+  Local Transparent Term_eqb.
+  Lemma Term_eqb_spec Σ (σ : Ty) (t1 t2 : Term Σ σ) :
+    reflect (t1 = t2) (Term_eqb t1 t2).
   Proof.
-    intros.
-    induction t1 using Term_rect; dependent destruction t2; simp Term_eqb; cbn in *;
-    Term_eqb_spec_solve.
+    induction t1 using Term_rect; cbn [Term_eqb]; dependent destruction t2;
```
Comment (geo2a) [inline src/MicroSail/Sep/Soundness/Term.v]: Cool, so we can now use `cbn [Term_eqb]` instead of `simp` and it's much faster, too
